US05945502
Diethyl 2,3-di(4-fluorophenyl)-1,4-benzenedicarboxylate In a 500 mL round bottom flask was loaded difluorobenzil (12.3 g, 50.0 mmol), diethyl acetonedicarboxylate (12.1 g, 60.0 mmol) and methanol (100 mL) with stirring. This was cooled in an ice/water bath and methanolic NaOH (2 g in 50 mL of methanol) added to the mixture. This was stirred overnight. The resultant yellow precipitate was filtered and washed with methanol (2×20 mL) and air-dried. The yellow precipitate was then added to acetic anhydride (300 mL). The mixture was cooled in an ice/water bath and then sulfuric acid was added dropwise until an orange solution resulted. Several more drops of sulfuric was then added and the solution stirred for 30 min. The excess acetic anhydride was destroyed by addition of water. Excess water (1 L) was added to precipitate out the orange product. The orange precipitate was filtered and washed repeatedly water and air-dried to give 2,5-dicarboethoxy-3,4-di-(4-fluorophenyl)-cyclopentadienone (16.7 g, 81% yield). In a 100 mL round-bottom flask was loaded 2,5-dicarboethoxy-3,4-di-(4-fluorophenyl)-cyclopentadienone (2.6 g, 6.3 mmol), norbornadiene (2.9 g, 31.5 mmol) and toluene (45 mL) with stirring. The mixture was refluxed for 5 hour and then the solvent was removed. Methanol was then added to precipitate out the white product. The white precipitate was filtered and washed with methanol (2×5 mL) and air-dried (1.22 g, 47% yield).

reactant | Diethyl 2,3-di(4-fluorophenyl)-1,4-benzenedicarboxylate | FC1=CC=C(C=C1)C1=C(C=CC(=C1C1=CC=C(C=C1)F)C(=O)OCC)C(=O)OCC | C24H20F2O4
reactant | difluorobenzil | 50.0 mmol, 12.3 g | FC1=CC=C(C(C(C2=CC=C(C=C2)F)=O)=O)C=C1 | C14H8F2O2
reactant | diethyl acetonedicarboxylate | 60.0 mmol, 12.1 g | CCOC(=O)CC(=O)CC(=O)OCC | C9H14O5
reactant | NaOH | 50 mL, 2 g | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 2,5-dicarboethoxy-3,4-di-(4-fluorophenyl)-cyclopentadienone | 16.7 g, 81% yield | C(=O)(OCC)C=1C(C(=C(C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)OCC)=O | C23H18F2O5
